US07569578B2
(±)-N-(2-(7-Methyl-1H-indazol-5-yl)-1-(1-((2-methylpyridin-4-yl)methyl)-1H-imidazol-2-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide
N-(1-(1-((2-Chloro-6-methylpyridin-4-yl)methyl)-1H-imidazol-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide (15.0 mg, 0.024 mmol) in methanol (1.0 mL) was flushed with nitrogen, and treated with palladium (10% on charcoal, 1.5 mg). The flask was flushed with hydrogen and allowed to stir under an atmosphere of hydrogen overnight. After 24 h, the reaction was charged with additional palladium (10% on charcoal, 1.5 mg). The flask was flushed with hydrogen and allowed to stir under an atmosphere of hydrogen overnight. The reaction was flushed with nitrogen, filtered through celite, and concentrated in vacuo. Column chromatography gave 2.4 mg (17%). 1H-NMR (CD3OD, 500 MHz) δ 1.49-1.63 (m, 4H), 2.32 (s, 3H), 2.43 (s, 3H), 2.69-2.78 (m, 2H), 3.98-4.12 (m, 2H), 5.11-5.24 (m, 3H), 5.39 (d, J=17.1, 1H), 6.55 (d, J=0.9, 1H), 6.72 (s, 1H), 6.80 (d, J=7.9, 1H), 6.85 (s, 1H), 6.97 (dd, J=7.6, 7.3, 1H), 7.06 (s, 1H), 7.10-7.76 (m, 6H), 8.03 (d, J=5.2, 1H). Mass spec.: 604.96 (MH)+.

reactant | N-(1-(1-((2-Chloro-6-methylpyridin-4-yl)methyl)-1H-imidazol-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | 0.024 mmol, 15.0 mg | ClC1=NC(=CC(=C1)CN1C(=NC=C1)C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C | C34H36ClN9O2
solvent | methanol | 1.0 mL | CO | CH4O
catalyst | palladium | 1.5 mg | [Pd] | Pd
product | (±)-N-(2-(7-Methyl-1H-indazol-5-yl)-1-(1-((2-methylpyridin-4-yl)methyl)-1H-imidazol-2-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | CC=1C=C(C=C2C=NNC12)CC(C=1N(C=CN1)CC1=CC(=NC=C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C34H37N9O2
